US04745196
1-[(S)-2-[[(2-Phenylethyl)(phenylmethoxy)phosphinyl]oxy]-6-[[(phenylmethoxy)carbonyl]amino]-1-oxohexyl]-L-proline, phenylmethyl ester
A mixture of (2-phenylethyl)phosphonic acid, dibenzyl ester (1.48 g., 4.04 mmole, 1.5 eq.) in dry benzene (15 ml.) is treated with phosphorus pentachloride (952 mg., 4.57 mmole, 1.7 eq.) and the solution is heated at 75° (oil bath) for 2.5 hours under argon. The mixture is evaporated to dryness (0.5 mm of Hg.), taken up in benzene (10 ml.), and evaporated. This procedure is repeated twice. The clear residue is taken up in dry methylene chloride (15 ml.), 1-[(S)-6-[[(phenylmethoxy)carbonyl]amino]-2-hydroxy-1-oxohexyl]-L-proline, phenylmethyl ester (1.26 g., 2.69 mmole, 1.0 eq.) is added, the mixture is cooled to 0° (ice-bath), then treated with triethylamine (0.56 ml., 4.04 mmole, 1.5 eq.) and dimethylaminopyridine (49 mg., 0.40 mmole, 0.15 eq.), stirred at 0° for 15 minutes, and then at room temperature for one hour. The mixture is partitioned between 5% potassium bisulfate and methylene chloride. The organic layer is washed with brine, dried over anhydrous sodium sulfate, and evaporated to a yellow oil. The crude oil is purified by flash chromatography (LPS-1 silica gel) eluting with hexane:acetone (7:3). Product containing fractions are pooled and evaporated to give 916 mg. of 1-[(S)-2-[[(2-phenylethyl)(phenylmethoxy)phosphinyl]oxy]-6-[[((phenylmethoxy)carbonyl]amino]-1-oxohexyl]-L-proline, phenylmethyl ester as a clear, colorless oil.

reactant | (2-phenylethyl)phosphonic acid, dibenzyl ester | 4.04 mmole, 1.48 g, 1.5 eq. | C1(=CC=CC=C1)CCP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C22H23O3P
reactant | phosphorus pentachloride | 4.57 mmole, 952 mg, 1.7 eq. | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1-[(S)-6-[[(phenylmethoxy)carbonyl]amino]-2-hydroxy-1-oxohexyl]-L-proline, phenylmethyl ester | 2.69 mmole, 1.26 g, 1.0 eq. | C1(=CC=CC=C1)COC(=O)NCCCC[C@@H](C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)O | C26H32N2O6
reactant | triethylamine | 4.04 mmole, 0.56 ml, 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.40 mmole, 49 mg, 0.15 eq. | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 1-[(S)-2-[[(2-Phenylethyl)(phenylmethoxy)phosphinyl]oxy]-6-[[(phenylmethoxy)carbonyl]amino]-1-oxohexyl]-L-proline, phenylmethyl ester | C1(=CC=CC=C1)CCP(=O)(O[C@H](C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)CCCCNC(=O)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C41H47N2O8P
